US05861401
A 2M solution of lithium diisopropylamide in tetrahydrofuran (THF)/heptane (1:1 v/v; 2.3 ml) was added over 10 minutes to a stirred solution of 2-amino-5-bromo-3-dimethylaminopyrazine (0.45 g) in dry THF (25 ml) at -60° C. The solution was stirred at -60° C. for 1 hour and then 5-dimethylamino-1-naphthalenesulphonyl chloride (0.62 g) was added portionwise over 5 minutes. The solution was allowed to warm to ambient temperature and then stirred for 18 hours. Ether (20 ml) was added and the solution was extracted with water (2×20 ml). The aqueous extracts were neutralised to pH 7 with 10% citric acid solution and extracted with ethyl acetate (2×20 ml). The organic extracts were combined and dried (MgSO4). Volatile material was removed by evaporation and the residue was purified by elution with ethyl acetate/hexane (1:3 v/v) through a silica gel Mega Bond Elut column. The resulting solid was further purified by elution with dichloromethane through a fresh silica gel Mega Bond Elut column to give 5-dimethylamino-N-(5-bromo-3-dimethylamino-2-pyrazinyl)-1-naphthalenesulphonamide (0.125 g), m.p. 180°-182° C. (after trituration with ether); mass spectrum (+ve FAB, methanol/dichloromethane/DMSO/NBA): 450 (M+H)+.

reactant | lithium diisopropylamide | C(C)(C)[N-]C(C)C.[Li+]
reactant | 2-amino-5-bromo-3-dimethylaminopyrazine | 0.45 g | NC1=NC=C(N=C1N(C)C)Br | C6H9BrN4
reactant | 5-dimethylamino-1-naphthalenesulphonyl chloride | 0.62 g | CN(C1=C2C=CC=C(C2=CC=C1)S(=O)(=O)Cl)C | C12H12ClNO2S
reactant | Ether | 20 ml | CCOCC | C4H10O
solvent | tetrahydrofuran | 2.3 ml | O1CCCC1 | C4H8O
solvent | THF | 25 ml | O1CCCC1 | C4H8O
product | 5-dimethylamino-N-(5-bromo-3-dimethylamino-2-pyrazinyl)-1-naphthalenesulphonamide | 0.125 g | CN(C1=C2C=CC=C(C2=CC=C1)S(=O)(=O)NC1=NC=C(N=C1N(C)C)Br)C | C18H20BrN5O2S
